US06734311B2
To a solution of 2.0 g (19.8 mmol) of (L)-azetidine-2-carboxylic acid and 4.6 g (43.6 mmol) of Na2CO3 in 100 mL of H2O at 0° C. was added 5.8 g (23.8 mmol) of 3,5-dichlorophenylsulfonylchloride. The reaction was allowed to come to room temperature overnight and was then diluted with Et2O and H2O. The layers were separated and the organic phase was discarded. The aqueous phase was acidified to pH˜4 with 1M HCl and extracted with EtOAc (4×50 mL). The combined organic layers were washed with brine, dried (MgSO4) and concentrated to give N-(3,5-dichlorophenylsulfonyl)-azetidine-2-carboxylic acid (6.0 g, 100%) as a white solid.

reactant | (L)-azetidine-2-carboxylic acid | 19.8 mmol, 2.0 g | C1CN[C@@H]1C(=O)O | C4H7NO2
reactant | Na2CO3 | 43.6 mmol, 4.6 g | C(=O)([O-])[O-].[Na+].[Na+]
reactant | 3,5-dichlorophenylsulfonylchloride | 23.8 mmol, 5.8 g | ClC=1C=C(C=C(C1)Cl)S(=O)(=O)Cl | C6H3Cl3O2S
solvent | H2O | 100 mL | O | H2O
solvent | Et2O | CCOCC | C4H10O
product | N-(3,5-dichlorophenylsulfonyl)-azetidine-2-carboxylic acid | 6.0 g, 100% | ClC=1C=C(C=C(C1)Cl)S(=O)(=O)N1C(CC1)C(=O)O | C10H9Cl2NO4S
